US09399636B2
Preparation of 2-((6-(3-fluoroazetidin-1-yl)-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile
2-((6-Chloro-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile (50.0 mg, 0.159 mmol, 1.00 equiv), 3,3-difluoroazetidine hydrochloride (44.3 mg, 0.318 mmol, 2.00 equiv), sodium tert-butoxide (94.4 mg, 0.953 mmol, 6.00 equiv), 2-dicyclohexylphosphino-2′,6′-diisopropoxybiphenyl (7.56 mg, 0.0159 mmol, 0.100 equiv), and chloro-(2-dicyclohexylphosphino-2′,6′-diisopropoxy-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]palladium(II)-methyl-t-butyl ether adduct (13.0 mg, 0.0159 mmol, 0.100 equiv) were added to a 2-dram vial. After purging the vial with nitrogen, dry tetrahydrofuran (1.50 mL) was added and the reaction mixture was left stirring at 80° C. for 14 h. The reaction mixture was then filtered over Celite washing with ethyl acetate (3×3 mL) and concentrated to dryness. Purification by reverse phase column chromatography (30:70 water/acetonitrile with 0.1% ammonium hydroxide) gave the desired product as a white solid (3.8 mg, 6.4% yield). 1H NMR (400 MHz, DMSO-d6), δ: 9.87 (s, 1H), 8.42 (d, J=5.1 Hz, 1H), 8.26 (s, 1H), 7.21 (dd, J=5.2, 2.0 Hz, 1H), 6.88 (s, 1H), 6.04 (s, 1H), 4.49-4.26 (m, 4H), 4.02-3.86 (m, 2H), 3.52-3.35 (m, 2H), 2.76-2.58 (m, 1H), 1.73-1.59 (m, 4H).

reactant | 2-((6-Chloro-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 0.159 mmol, 50.0 mg, 1.00 equiv | ClC1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1CCOCC1 | C16H15ClN4O
reactant | 3,3-difluoroazetidine hydrochloride | 0.318 mmol, 44.3 mg, 2.00 equiv | Cl.FC1(CNC1)F
reactant | sodium tert-butoxide | 0.953 mmol, 94.4 mg, 6.00 equiv | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-diisopropoxybiphenyl | 0.0159 mmol, 7.56 mg, 0.100 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
product | 2-((6-(3-fluoroazetidin-1-yl)-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 3.8 mg, 6.4% yield | FC1CN(C1)C1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1CCOCC1 | C19H20FN5O
